US06458781B1
Step A. (S)-2-(Isobutyl-methyl-amino)-4-methyl-pentanoic acid
A mixture of L-leucine (100 g, 0.76 mol) and isovaleraldehyde (132 g, 1.53 mol, Aldrich, Milwaukee, Wis.) was agitated in an atmosphere of hydrogen (pressure, 50 psi) at room temperature in absolute ethanol (1.6 L) in the presence of Pd/C (20%, 8 g) until the absorption of hydrogen almost ceased, filtered. The solid was treated with concentrated aqueous HCl (36.5%) until all the desired product was dissolved in the acidic aqueous solution, the catalyst was then removed by filtration. The filtrate was treated with aqueous NaOH solution (50%) to adjust the pH to 6.5. White solid precipitated out which was isolated via filtration. The white solid was triturated, in succession, with 200 mL of water and 300 mL of acetone. After drying under vacuum. 50.0 g (33%) of the pure titled compound was isolated as a white solid: mp 275° C. (decomposed).

reactant | L-leucine | 0.76 mol, 100 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | isovaleraldehyde | 1.53 mol, 132 g | C(CC(C)C)=O | C5H10O
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 1.6 L | C(C)O | C2H6O
catalyst | Pd/C | 8 g | [Pd] | Pd
product | (S)-2-(Isobutyl-methyl-amino)-4-methyl-pentanoic acid | 50.0 g, 33% | C(C(C)C)N([C@H](C(=O)O)CC(C)C)C | C11H23NO2
